US04489078
7-AMINO-2,3-DIHYDRO-8-(2-METHYLPROPYL)IMIDAZO[1,2-a]PYRIMIDIN-5(8H)-ONE.
A mixture of 29.25 g. (0.40 mole) isobutylamine and 48.82 g. (0.20 mole) 2-(methylthio)-2-imidazoline hydroiodide in 250 ml. abs. EtOH were refluxed for 2 hr. The mixture was concentrated in vacuo to a viscous oil, which was dissolved in 100 ml. abs. EtOH and added to a solution of 8.40 g. (0.80 mole) sodium and 22.62 g. (0.20 mole) ethyl cyanoacetate in 1200 ml. abs. EtOH. The mixture was refluxed for 3 hr., then concentrated in vacuo to a viscous oil. Water (400 ml.) was added and a white solid slowly crystallized. The solid was filtered and air-dried to yield 35.43 g. (86%), mp 235°-238° (two crops). Recrystallization from CH3CN gave white crystals, mp 230.5°-232.5° (corr.).

reactant | isobutylamine | 0.40 mole | C(C(C)C)N | C4H11N
reactant | 2-(methylthio)-2-imidazoline hydroiodide | 0.20 mole | I.CSC=1NCCN1
reactant | sodium | 0.80 mole | [Na] | Na
reactant | ethyl cyanoacetate | 0.20 mole | C(#N)CC(=O)OCC | C5H7NO2
solvent | EtOH | CCO | C2H6O
product | 7-AMINO-2,3-DIHYDRO-8-(2-METHYLPROPYL)IMIDAZO[1,2-a]PYRIMIDIN-5(8H)-ONE | NC=1N(C=2N(C(C1)=O)CCN2)CC(C)C | C10H16N4O
